US06153641
The crude 4-bromo-3-(2,3-dihydro-indol-1-ylmethyl)-benzonitrile (3.04 g) dissolved in dry tetrahydrofuran (50 mL) was dropped to an ice-cold slurry of lithium aluminium hydride 4.16 g, 0.11 mmol) in dry tetrahydrofuran (50 mL). The mixture was stirred for 1 h at ambient temperature, and then heated at reflux for another hour. The flask was cooled on ice, and the reaction mixture quenched with water (4.2 mL) followed by 15% NaOH(aq) (4.2 mL). Additional water (12.6 mL) was added and the mixture stirred at ambient temperature for 1 h. The white precipitate was filtered and washed with tetrahydrofuran. Evaporation afforded crude 4-bromo-3-(2,3-dihydro-indol-1-ylmethyl)-benzylamine (3.20 g) as a yellow oil. This was stirred together with ethyl trifluoroacetate (2.5 ml, 20.9 mmol) in dry methylene chloride (50 mL) for 17 h at room temperature. Evaporation followed by chromatography (ethyl acetate/heptane: 25/75) gave the sub-title compound.

reactant | 4-bromo-3-(2,3-dihydro-indol-1-ylmethyl)-benzonitrile | 3.04 g | BrC1=C(C=C(C#N)C=C1)CN1CCC2=CC=CC=C12 | C16H13BrN2
reactant | lithium aluminium hydride | 0.11 mmol, 4.16 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-bromo-3-(2,3-dihydro-indol-1-ylmethyl)-benzylamine | 3.20 g | BrC1=C(C=C(CN)C=C1)CN1CCC2=CC=CC=C12 | C16H17BrN2
